US07442698B2
2,4-dimethoxyaniline (4.1 g, 24.6 mmol) was added to a solution of 2,4-dichloro-5-fluoropyrimidine (4.1 g, 24.6 mmol) in isopropanol (16 mL). N,N-Diisopropyl-ethylamine (6.30 g, 8.50 mL, 48.8 mmol) was added and the mixture was allowed to stir at room temperature for 24 h. The solution was partitioned between ethyl acetate and water. The organic phase was separated and washed with brine, dried over anhydrous magnesium sulfate, filtered, and concentrated to afford an oil. This oil was purified via column chromatography on silica gel (gradient elution with 0-10% methanol-methylenechloride) to afford (2-chloro-5-fluoro-pyrimidin-4-yl)-(2,4-dimethoxy-phenyl) amine. MS (MH+) 284; Calculated 283.69 for C12H11ClFN3O2.

reactant | 2,4-dimethoxyaniline | 24.6 mmol, 4.1 g | COC1=C(N)C=CC(=C1)OC | C8H11NO2
reactant | 2,4-dichloro-5-fluoropyrimidine | 24.6 mmol, 4.1 g | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
reactant | N,N-Diisopropyl-ethylamine | 48.8 mmol, 8.50 mL, 6.30 g | C(C)(C)N(C(C)C)CC | C8H19N
solvent | isopropanol | 16 mL | C(C)(C)O | C3H8O
product | (2-chloro-5-fluoro-pyrimidin-4-yl)-(2,4-dimethoxy-phenyl) amine | ClC1=NC=C(C(=N1)NC1=C(C=C(C=C1)OC)OC)F | C12H11ClFN3O2
